Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___. male with PMH of Afib, hld, DMII, peripheral neuropathy, 
gastroparesis, ESRD on HD recently admitted to ___ 
___ ___ for cholecystitis requiring 
pressors. This hospitalization lasted roughly one week, and his 
cholecystitis was treated conservatively with unasyn and he was 
discharged Yesterday.  
.  
Today roughly 15 hours into his stay at the rehab facility he 
was hypotensive to the 70's with a HR of 130's in AFIB. In tha 
setting he developed chest pain. He was taken to ___ 
where he was given one dose of IV lopressor and cardioverted 
with return of blood pressures and resolution of his chest pain. 
He was given a dose of unasyn, and full dose ASA.  
.  
___ felt he was too complicated to stay there and sent 
him to ___.  
.  
In our ED initial vitals were 98.7 64 98/52 14 100% 4L NC. Labs 
were notable for a low glucose of 66, a troponin of .44, and a 
lacatate of 1.4. Repeat UA looked contaminated. A heparin drip 
was started for NSTEMI, Cardiology saw the EKGs, which looked 
like demand ischemia in the setting of rapid AFIB. Here EKG is 
sinus. He was seen by transplant surgery who felt his 
cholecystitis was not appropriate for operative intervention.  
.  
Last dialyzed yesterday.  
.  
On arrival to the floor the patient is hemodynamicly stable, 
comfortable with no abdominal or chest pain.  

 
Past Medical History:
PMH
- Plasma cell dyscrasia IgM - not myeloma but ? ___'s 
variant s/p 11 months Melphalan and prednisone (last chemo 
___  
-Renal cell carcinoma s/p left nephrectomy in ___  
-DM2  
-peripheral neuropathy  
-gastroparesis  
-ESRD on HD ___  
-HTN  
-CAD with mild, nonobstructive lesions seen on cath in ___  
-Hyperlipidemia  
-BPH  
-gout  
-hypothyroidism  
-GERD  
.  
Past Surgical History:  
-___ s/p L nephrectomy in ___  
-s/p splenectomy for ITP  
-hernia repair  
 
Social History:
___
Family History:
His father died of lung cancer at ___ and his mother died at ___. 
His brother died of lung cancer. Uncles with DM2, gout. 

 
Physical Exam:
Admission Physical Exam:  
T:97.8 P:63 BP:133/71 RR:18 O2sat:99% 2L  
General: awake, alert, NAD  
HEENT: NCAT, EOMI, PERRLA, anicteric  
Heart: distant RRR, NMRG, dialysis ___ in place, clean  
Lungs: CTAB, normal excursion, no respiratory distress  
Back: no vertebral tenderness, no CVAT  
Abdomen: Distended, palpable gas, soft, NT,  
Extremities: WWP, no CCE, no tenderness, 2+ B ___  
Skin: no rashes/lesions/ulcers  
Pyschiatric: normal judgment/insight, normal memory, normal  
mood/affect  

 
Pertinent Results:
MICRO PERICARDIAL FLUID ___
   ENTEROCOCCUS RAFFINOSUS.    FINAL SENSITIVITIES. 
         VANCOMYCIN Sensitivity testing confirmed by Etest. 
         SPECIATION AND SUSCEPTIBILITY TESTING OF DAPTOMYCIN AND 
LINEZOLID
         REQUESTED BY ___. ___. 
         Daptomycin Sensitivity testing performed by Etest. 
         SENSITIVE TO Daptomycin @ 1 MCG/ML. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS RAFFINOSUS
                             |   
AMPICILLIN------------    16 R
DAPTOMYCIN------------       S
LINEZOLID-------------     2 S
PENICILLIN G----------    16 R
VANCOMYCIN------------ <=0.5 S

.
ECHO ___
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic root is mildly dilated 
at the sinus level. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is a large 
pericardial effusion. There are no echocardiographic signs of 
tamponade. 
.
IMPRESSION: Large circumferential pericardial effusion without 
signs of tamponade. Mild symmetric left ventricular hypertrophy 
with normal global and regional biventricular systolic function. 

.
Compared with the report of the prior study (images unavailable 
for review) of ___, pericardial effusion is probably 
larger. The other findings appear similar. Short-term clinical 
and echocardiographic follow-up for stability of pericardial 
effusion is recommended. Findings discussed with Dr. ___ at 
1440 hours on the day of the study.
.
Cardiac Cath ___
1. Successful pericardiocentesis via left sternal approach using 
echo guidance and micropuncture technique. 2. Successful removal 
of 260cc of straw colored fluid sent for routine labs and 
cytology. 
FINAL DIAGNOSIS: 1. Large pericardial effusion without 
tamponade. 2. Successful pericardiocentsis with drainage of 
260cc of straw colored fluid.  
.
Gall Bladder Ultrasound ___
1. No intra- or extra-hepatic biliary duct dilatation. 
2. Gallbladder filled with sludge. 
3. Patent main portal vein. 
4. Small amount of perihepatic ascites and a small right pleural 
effusion as seen on CT. 
5. Fluid collection medial to the gallbladder is similar to 
finding seen on recent CT. 
.
CT Chest with Contrast ___ 
1. Interval decrease in fluid component of pericardial effusion 
with new gas within the pericardial effusion, likely secondary 
to drain. The pericardial drain lies along the inferior margin 
of the right ventricle and traverses the pleural space. 
2. New left upper quadrant and left flank fluid collections, the 
upper 
quadrant fluid collection is high in attenuation suggesting 
hemorrhage and is separate from the larger right upper quadrant 
hemorrhagic collection which is unchanged. The left flank 
collection is most likely ascites. 
3. Slight interval worsening in appearance of acute 
cholecystitis. 
4. Bilateral moderately large pleural effusions with associated 
compressive atelectasis, with slight interval enlargement since 
___. 
.
Trans Esophageal Echo ___
No thrombus/mass is seen in the body of the left atrium. No 
atrial septal defect is seen by 2D or color Doppler. Left 
ventricular systolic function is hyperdynamic (EF>75%). There 
are simple atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) are mildly thickened. No masses or 
vegetations are seen on the aortic valve. No aortic valve 
abscess is seen. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. No mass or vegetation is seen on the mitral valve. No 
mitral regurgitation is seen. No vegetation/mass is seen on the 
pulmonic valve. There is no pericardial effusion. 
.
IMPRESSION: No valvular vegetations or abcess seen.  
.
ADMISSION RESULTS
___ 11:58PM   CK(CPK)-17*
___ 11:58PM   CK-MB-5 cTropnT-0.46*
___ 04:30PM URINE  HOURS-RANDOM
___ 04:30PM URINE  UHOLD-HOLD
___ 04:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:30PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-500 
GLUCOSE-100 KETONE-50 BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 04:30PM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ RENAL ___ 03:07PM   GLUCOSE-66* LACTATE-1.4
___ 02:35PM   GLUCOSE-66* UREA N-20 CREAT-4.3* SODIUM-138 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-23 ANION GAP-16
___ 02:35PM   estGFR-Using this
___ 02:35PM   ALT(SGPT)-8 AST(SGOT)-21 CK(CPK)-22* ALK 
PHOS-102 TOT BILI-0.4
___ 02:35PM   LIPASE-12
___ 02:35PM   cTropnT-0.44*
___ 02:35PM   CK-MB-4
___ 02:35PM   WBC-6.7 RBC-3.63*# HGB-12.3*# HCT-40.0# 
MCV-110* MCH-33.8* MCHC-30.7* RDW-23.7*
___ 02:35PM   NEUTS-63.8 ___ MONOS-4.5 EOS-0.8 
BASOS-0.3
___ 02:35PM   PLT SMR-VERY LOW PLT COUNT-75*
___ 02:35PM   ___ PTT-34.0 ___
.
PENDING RESULTS
Pericardial Fluid Cytology Pending
Abdominal Fluid Cytology Pending
Final Culture data from Blood, Urine, Pericardial Fluid and 
Abdominal Fluid not all finalized
 
Brief Hospital Course:
HOSPITAL COURSE
This is a ___ year old gentleman with complex medical issues, 
including recent hospitalization for medically managed 
cholecystitis, presenting with chest pain, found to be in atrial 
fibrillation with rapid ventricular response, and admitted to 
Medicine. Patient was transferred to the CCU for monitoring 
after pericardiocentesis (no tamponade physiology on echo, 
procedure performed for diagnostic purposes), who subsequently 
developed fever and hypotension requiring pressure support with 
phenylephrine. He ultimately opted for re-focus of medical 
management to pain management and positioning therapy and was 
discharged to a rehabilitation facility.
.
ACTIVE ISSUES
# GOALS OF CARE: After significant discussion with both his 
family and his medical providers the patient voiced his desire 
for re-focus of his medical management to control of his pain, 
and focus on comfort. These discussions arose in the setting of 
initiation of permanent dialysis and prolonged and profound 
physical and emotional decompensation. The patient stated he 
understood that termination of dialysis would not be compatible 
with life. The patient was transferred to a rehabilitation 
facility for management of pain and positioning therapy.
.
# PERICARDIAL EFFUSION: Echo performed on admission demonstrated 
large circumferential pericardial effusion, no evidence of 
tamponade. Since the patient had been having transient episodes 
of hypotension during HD sessions, and in order to better 
clarify the etiology of the pericardial fluid, a 
pericardiocentesis was performed. Per report, 260 cc of yellow 
serous fluid was removed. Two hours post-procedure the patient 
became hypotensive, initially responding to fluid boluses, then 
requiring Neo for pressure support. He was pan-cultured and 
started on broad antibiotics- vancomycin, cefepime and 
metronidazole. It was noted that his pericardial fluid changed 
in nature from serous to cloudy pink thick fluid. He then became 
febrile, and received more volume resuscitation for likely 
septic shock.  Studies were consistent with an exudative 
effusion and culture grew vancomycin resistant enterococcus. 
Broad spectrum antibiotics were discontinued and daptomycin was 
started. The source remained unclear, given nothing on imaging 
to support contiguous spread, and highly unlikely that the 
procedure introduced the organism. Furthermore, blood and urine 
cultures were negative throughout his hospital stay. A TEE was 
negative for evidence of valvular vegetations. Repeat imaging 
showed the effusion was resolved and the pericardial drain was 
removed. He was treated with a 5 day course of Daptomycin before 
antibiotics were discontinued on discharge following the wishes 
of the patient.
.
# HYPOTENSION: The patient was noted to be hypotensive on 
admission, thought to be secondary to hypovolemia from poor PO 
intake. He also had a recent history of transient hypotension 
during hemodialysis for which he was started on midodrine. 
Echocardiogram revealed an enlarged pericardial effusion 
(details above). Post-pericardiocentesis the patient was treated 
with fluid resuscitation and broad antibiotics for presumed 
septic shock. His blood pressure was supported with 
phenylephrine. A ___ test was negative for adrenal 
insufficiency.  Additionally, albumin of 1.7 so likely has poor 
intravascular osmotic pressure. Given his history of recent 
medically-managed cholecystitis, and known intra-abdominal fluid 
collections, a CT torso was obtained to investigate potential 
sources of infection. His HD catheter was removed. Surgery was 
consulted to investigate possible cholecystitis (details below), 
and ___ performed a drainage of an intraabdominal fluid 
collection, a hematoma. Serial blood and urine cultures were 
negative. His hypotension resolved, and he was weaned off 
phenylephrine prior to discharge. His midodrine was increased to 
5 TID. Medical management was discontinued as the patient 
declined further medical management.
.  
# SUSPECTED CHOLECYSTITIS: The patient had a recent history of 
medically-managed cholecystitis. On admission he was initially 
treated with broad spectrum antibiotics, which were then 
narrowed to Levaquin. Given our clinical concern for sepsis, a 
RUQ ultrasound was obtained and demonstrated a sludge-filled 
gallbladder and a small, unchanged fluid collection. CT torso 
demonstrated stranding, concerning for acute cholecystitis. 
Surgery was consulted and recommended HIDA scan given low 
suspicion on physical exam. HIDA scan was positive and a 
percutaneous drain was attempted; however, the procedure was 
complicated by collapse of the gallbladder (inconsistent with 
acute cholecystitis) and development of a small hematoma. A 
drain was placed in the abdominal fluid collection, which 
appeared to be an old hematoma. Microbiology was sent and was 
negative for growth. The drain was removed.  
.
# ESRD on HD: The patient normally receives HD on ___. 
Renal was consulted. HD initially was on hold given new pressor 
requirement and stable electrolytes. Given concern for sepsis, 
the tunneled dialysis catheter was removed and replaced with a 
temporary catheter. Once stable, the patient received CVVH with 
phenylephrine for pressure support. Culture of the catheter tip 
revealed no growth. A permanent catheter was not placed as the 
patient declined further dialysis.
.
# ATRIAL FIBRILLATION with RAPID VENTRICULAR RESPONSE: Present 
on admission. The patient spontaneously cardioverted and 
remained in sinus for the rest of his admission. The patient has 
___ S2 score of 3; however, given his history of 
intraabdominal hematomas, we elected to continue aspirin 325 for 
anticoagulation. Medical management was discontinued as the 
patient declined further medical management.
.
# CORONARY ARTERY DISEASE: Presented with CP in setting of AF 
with RVR, found to have ST changes and elevated troponin 
consistent with demand ischemia. Enzymes were cycled and the 
patient ruled out for an acute myocardial infarction. We 
continued his aspirin and statin. Medical management was 
discontinued as the patient declined further medical management.
.
# ANEMIA: No evidence of acute bleeding. Likely secondary to 
chronic inflammation. Is on Aranesp as outpatient. Hct trended 
down initially on admission and was stable around 20 at the time 
of discharge. He required a transfusion of 1 unit of pRBCs with 
appropriate response.
.  
# THROMBOCYTOPENIA: Relatively stable. Unclear etiology, 
reportedly has chronic ITP, and is status post splenectomy.  
.
# PERIPHERAL NEUROPATHY: Continued on gabapentin 100 qhs. 
Medical management was discontinued as the patient declined 
further medical management.
.
# GASTROPARESIS: Continued on metoclopramide 5 mg PO QIDACHS. 
Medical management was discontinued as the patient declined 
further medical management.
.
TRANSITIONAL ISSUES
- ___ Management: Management of pain and optimization of 
positional comfort.
- Pending Studies: Pericardial and Abdominal Fluid Cytology, 
finalized culture data
- Code Status: DNR/DNI, do not resuscitate.
 
Medications on Admission:
acetaminophen 325 mg Tablet PO Q6H PRN  
MOM prn constipation  
simvastatin 40 mg Tablet PO DAILY  
allopurinol ___ mg Tablet Sig:PO DAILY  
pantoprazole 40 mg Tablet, Delayed Release PO Q24H  
docusate sodium 100 mg BID  
senna 8.6 mg Tablet Sig: PO BID  
tramadol 50 mg PO Q12H  
metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO QIDACHS  
polyethylene glycol 3350 17 gram/dose DAILY (Daily).  
midodrine 2.5 mg Tablet 6A 11A 4p  
simethicone 80 mg Tablet, QID as needed for gas.  
gabapentin 100 mg HS  
B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap  
PO DAILY (Daily).  
polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___  
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
levothyroxine 125 mcg DAILY  

 
Discharge Medications:
1. Ativan 0.5 mg Tablet Sig: ___ Tablets PO every four (4) hours 
as needed for End of life anxiety: Pt is comnfort care.
Disp:*100 Tablet(s)* Refills:*0*
2. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*30 Capsule(s)* Refills:*0*
3. senna 8.6 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
4. oxycodone 20 mg/mL Concentrate Sig: 2.5-5 mg PO q2hrs as 
needed for pain: Pt is comfort care.
Disp:*30 ml* Refills:*0*
5. Zyprexa Zydis 5 mg Tablet, Rapid Dissolve Sig: 2.5mg-5mg 
Tablet, Rapid Dissolves PO every six (6) hours as needed for 
anxiety or agitation.
Disp:*80 Tablet, Rapid Dissolve(s)* Refills:*0*
6. prochlorperazine 25 mg Suppository Sig: One (1) tablet Rectal 
three times a day as needed for nausea: nausea if unable to take 
POs.
Disp:*30 tabs* Refills:*0*
7. acetaminophen 500 mg Tablet Sig: ___ Tablets PO four times a 
day as needed for fever or pain.  
8. gabapentin 100 mg Capsule Sig: One (1) Capsule PO at bedtime.
Disp:*30 Capsule(s)* Refills:*1*
9. tramadol 50 mg Tablet Sig: 0.5 Tablet PO Q4H (every 4 hours) 
as needed for mild pain or neuropathy.
Disp:*30 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pericardial Effusion
Cardiac Tamponade
Hypotension
Enterococcus infected Pericardial Fluid Collection

Secondary:
End stage renal disease
Peripheral Neuropathy
Hypothyroidism

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
You were initially admitted to the hospital after experiencing 
several episodes of low blood pressure. During your 
hospitalization you were noted to have a large fluid collection 
around your heart which was drained and thought to be 
infectious. You were treated in the intensive care unit due to 
the large fluid collection and your low blood pressure. After a 
discussion with you, your providers and your family you decided 
you did not want any further medical treatment and wanted to 
transition care to management of your pain and positional 
discomfort. You are being discharged to a facility to help with 
your pain management. We have reconciled your medications to be 
more concurrent with your goals of care. You also refused 
dialysis and were able to tell us the consequence of stopping 
dialysis.

We changed your medications as noted in the discharge summary.
 
Followup Instructions:
___